US06884801B1
3-(dimethylamino)2′-nitroacrylophenone (1.0 g, 4.54 mmol) in absolute ethanol (25 mL) was treated with guanidine hydrochloride (540 mg, 5.68 mmol), and 10N sodium hydroxide (200 μL). The reaction was heated to reflux for 18 hours. Upon cooling a white precipitate was collected by filtration and rinsed with diethyl ether to give 4-(2-nitrophenyl)-2-pyrimidineamine (400 mg). Additional material was obtained by concentration and chromatography on silica, eluting with 1;1 hexane:ethyl acetate.

reactant | 3-(dimethylamino)2′-nitroacrylophenone | 4.54 mmol, 1.0 g | CN(C=CC(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C11H12N2O3
reactant | guanidine hydrochloride | 5.68 mmol, 540 mg | Cl.NC(=N)N
reactant | sodium hydroxide | 10N, 200 μL | [OH-].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 4-(2-nitrophenyl)-2-pyrimidineamine | 400 mg | [N+](=O)([O-])C1=C(C=CC=C1)C1=NC(=NC=C1)N | C10H8N4O2
